US06884801B1
2-Amino-N-isopropyl-N-methylbenzamide (prepared from N-methylisopropylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-isopropyl-N-methylbenzamide.

reactant | 2-Amino-N-isopropyl-N-methylbenzamide | NC1=C(C(=O)N(C)C(C)C)C=CC=C1 | C11H16N2O
reactant | N-methylisopropylamine | CNC(C)C | C4H11N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-isopropyl-N-methylbenzamide | N1C(=NCC1)CNC1=C(C(=O)N(C)C(C)C)C=CC=C1 | C15H22N4O
